US09387200B2
a) 7-Hydroxy-3-methyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester
The title compound was synthesized in analogy to Example 1 from 4-Bromo-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester and phenyl boronic acid: MS (m/z) 343.1 (M+1).

reactant | 4-Bromo-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)Br)C(=NS2)C)O | C12H13BrN2O3S
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 7-Hydroxy-3-methyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C1=CC=CC=C1)C(=NS2)C)O | C18H18N2O3S
